US07645785B2
A mixture of acetic anhydride (162 mg, 1.58 mmol, 2.2 equiv.) and formic acid (73 mg, 1.58 mmol, 2.2 equiv.) was heated to 60° C. for 15 minutes. The reaction was cooled to room temperature and a solution of 4-{1-[(3-amino-phenylcarbamoyl)-cyclohexyl-methyl]-1H-benzoimidazol-2-yl}-benzoic acid methyl ester (35 mg, 0.72 mmol, 1.0 equiv.) in dichloromethane (2 mL) was added and the reaction mixture stirred at room temperature for 16 hours. The reaction mixture was washed with 1 N HCl (2 mL) and the organic layer dried over magnesium sulphate. The reaction mixture was concentrated in vacuo to afford 4-{1-[cyclohexyl-(3-formylamino-phenylcarbamoyl)-methyl]-1H-benzoimidazol-2-yl}-benzoic acid methyl ester, 23 mg (62% yield) as a yellow solid, MS (ES+): 511 (M+H).

reactant | acetic anhydride | 1.58 mmol, 162 mg, 2.2 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1.58 mmol, 73 mg, 2.2 equiv. | C(=O)O | CH2O2
reactant | 4-{1-[(3-amino-phenylcarbamoyl)-cyclohexyl-methyl]-1H-benzoimidazol-2-yl}-benzoic acid methyl ester | 0.72 mmol, 35 mg, 1.0 equiv. | COC(C1=CC=C(C=C1)C1=NC2=C(N1C(C1CCCCC1)C(NC1=CC(=CC=C1)N)=O)C=CC=C2)=O | C29H30N4O3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-{1-[cyclohexyl-(3-formylamino-phenylcarbamoyl)-methyl]-1H-benzoimidazol-2-yl}-benzoic acid methyl ester | 62% yield | COC(C1=CC=C(C=C1)C1=NC2=C(N1C(C(NC1=CC(=CC=C1)NC=O)=O)C1CCCCC1)C=CC=C2)=O | C30H30N4O4
